US05476851
STEP B 6-(3-fluoro-4-methoxyphenyl)-1H-pyrazolo[3,4-g]quinoxaline 7-(3-fluoro-4-methoxyphenyl)-1H-pyrazolo[3,4-g]quinoxaline
To an ice-cooled mixture of 5,6-diaminoindazole (0.5 g) in 20 ml absolute ethanol is added slowly a solution of 1-methoxy-2-fluoro-4-glyoxyloylbenzene (0.75 g) in 30 ml ethanol. The resulting mixture is stirred at room temperature over night. The solid which forms is filtered off, washed with a small amount of ethanol then with hexane and air dried to give a yellow material.

reactant | 5,6-diaminoindazole | 0.5 g | NC=1C=C2C=NNC2=CC1N | C7H8N4
reactant | 1-methoxy-2-fluoro-4-glyoxyloylbenzene | 0.75 g | COC1=C(C=C(C=C1)C(C=O)=O)F | C9H7FO3
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 6-(3-fluoro-4-methoxyphenyl)-1H-pyrazolo[3,4-g]quinoxaline 7-(3-fluoro-4-methoxyphenyl)-1H-pyrazolo[3,4-g]quinoxaline | FC=1C=C(C=CC1OC)C=1C=NC=2C=C3C(=CC2N1)NN=C3.FC=3C=C(C=CC3OC)C3=NC=1C=C2C(=CC1N=C3)NN=C2 | 2C16H11FN4O
